// Generated for: spectre
// Generated on: Dec  9 08:27:32 2019
// Design library name: CHARACTERIZATION
// Design cell name: test
// Design view name: schematic
simulator lang=spectre
global 0
parameters cdb1=cdb1 cds1=cds1 cgd1=cgd1 cgs1=cgs1 gm1=gm1 rds1=rds1
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: MOS_AC
// View name: schematic
subckt MOS_AC D G S
parameters gm rds cgs cgd cdb cds
    G0 (D S G S) vccs gm=gm
    R0 (D S) resistor r=rds
    C3 (G S) capacitor c=cgs
    C2 (G D) capacitor c=cgd
    C1 (D S) capacitor c=cdb
    C0 (D S) capacitor c=cds
ends MOS_AC
// End of subcircuit definition.

// Library name: CHARACTERIZATION
// Cell name: test
// View name: schematic
I3 (net4 net1 0) MOS_AC gm=gm1 rds=rds1 cgs=cgs1 cgd=cgd1 cdb=cdb1 \
        cds=cds1
V0 (net1 0) vsource type=sine
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
